US07371869B2
2-((S)-2-tert-Butoxycarbonylamino-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (2.4 g, 5.919 mmol) was mixed in dichloromethane (25 mL) in an ice-bath. Trifluoroacetic acid (18 mL, 235 mmol) was added and the solution was stirred for 1.5 hours. The reaction mixture was evaporated and the residue was triturated with ether. The suspension was stirred vigorously for 10 minutes and then filtered. The solid was partitioned between aqueous sodium bicarbonate and dichloromethane. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with brine and dried over sodium sulfate. Evaporation of the solvents gave 2-((S)-2-amino-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester as an off white solid (1.58 g, 87%).

reactant | 2-((S)-2-tert-Butoxycarbonylamino-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | 5.919 mmol, 2.4 g | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C19H23N3O5S
reactant | Trifluoroacetic acid | 235 mmol, 18 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-((S)-2-amino-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)N)=O | C14H15N3O3S
